US05994349
2-Methyl-2,3-dihydro-1H-phenothiazin-4[10H] -one (4d, R=H).
A mixture of ter butyl 6-methyl-2,4-dioxocyclohexane-1-carboxylate, 7c (3.09 g, 13.7 mmole) and 2-aminothiophenol, 6 (X=H, 1.71 g, 13.7 mmole) in DMSO (10 mL) is placed in a preheated heating mantle. The reaction mixture is stirred and refluxed for 0.5 h. Upon cooling, the reaction mixture forms a solid. The crystals are filtered and the remaining mother liquid is poured into cold water, whereupon further precipitation occurs. Each precipitate was separately recrystallized twice from MeOH and proves to be identical. An analytical sample of 4d, (R=H), mp 278° C. occurs as light orange crystals; yield: 0.46 g (15.4%).

reactant | butyl 6-methyl-2,4-dioxocyclohexane-1-carboxylate | CC1CC(CC(C1C(=O)OCCCC)=O)=O | C12H18O4
reactant | 2-aminothiophenol | NC1=C(C=CC=C1)S | C6H7NS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-Methyl-2,3-dihydro-1H-phenothiazin-4[10H] -one | CC1CC=2NC3=CC=CC=C3SC2C(C1)=O | C13H13NOS
